US07741352B2
4-(4-Fluoro-benzylamino)-2-hydroxy-benzonitrile (Compound 12-7)
To a solution of 4-(4-fluoro-benzylamino)-2-(2-methoxy-ethoxymethoxy)-benzonitrile (15 mg; 0.05 mmol) in THF (1 mL) was added 4 M HCl (aq.; 0.5 mL). The mixture was refluxed for 2 h, cooled and the precipitate filtered off. Purification by flash column chromatography (SiO2—MeOH/CH2Cl2=0:1 to 5:95) yielded 2.5 mg pure product.

reactant | 4-(4-fluoro-benzylamino)-2-(2-methoxy-ethoxymethoxy)-benzonitrile | 0.05 mmol, 15 mg | FC1=CC=C(CNC2=CC(=C(C#N)C=C2)OCOCCOC)C=C1 | C18H19FN2O3
reactant | HCl | 4 M, 0.5 mL | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(4-Fluoro-benzylamino)-2-hydroxy-benzonitrile | 2.5 mg | FC1=CC=C(CNC2=CC(=C(C#N)C=C2)O)C=C1 | C14H11FN2O
